US04004016
A mixture of 13.3 g of 2-aminobenzimidazole, 18.5 g of 2-phenylethyl bromide, and 300 ml of xylene is heated as in Example 1. Subsequently, the solution is concentrated to dryness, the residue is dissolved in boiling acetonitrile, and clarified by filtration. The crystalline product that separates in the cooled filtrate is filtered to give 6.8 g of 1,3-dihydro-1,3-bis(2-phenylethyl)-2H-benzimidazol-2-imine hydrobromide, m.p. 259°-260°.

reactant | 2-aminobenzimidazole | 13.3 g | NC=1NC2=C(N1)C=CC=C2 | C7H7N3
reactant | 2-phenylethyl bromide | 18.5 g | C1(=CC=CC=C1)CCBr | C8H9Br
solvent | xylene | 300 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 1,3-dihydro-1,3-bis(2-phenylethyl)-2H-benzimidazol-2-imine hydrobromide | 6.8 g | Br.C1(=CC=CC=C1)CCN1C(N(C2=C1C=CC=C2)CCC2=CC=CC=C2)=N | InChI=1S/C23H23N3.BrH/c24-23-25(17-15-19-9-3-1-4-10-19)21-13-7-8-14-22(21)26(23)18-16-20-11-5-2-6-12-20;/h1-14,24H,15-18H2;1H
